US05968914
Synthesis of ethoxycarbonyluridine
To an ice cold solution of 0.5 grams (1.76 millimoles) grams of 2',3'-isopropylidene uridine in 10 ml pyridine, 2.64 mmoles (1.5 equivalents) of ethylchloroformate was added dropwise while stirring. The reaction was allowed to warm up to room temperature (25° C.) and stirred overnight (18 hours), at which point TLC (9:1 chloroform/methanol) showed complete conversion of starting material to a single product. The solvent was removed by rotary evaporation under high vacuum, giving a light beige syrup which was carried over into the subsequent deprotection step.

reactant | 2',3'-isopropylidene uridine | CC1(OC2C(OC(C2O1)N3C=CC(=O)NC3=O)CO)C | C12H16N2O6
reactant | ethylchloroformate | 2.64 mmoles, 1.5 equivalents | C(C)OC(=O)Cl | C3H5ClO2
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | ethoxycarbonyluridine | C(C)OC(=O)[C@@]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C12H16N2O8
